US04003908
By replacing 7-chloro-3-ethyl-5-methyl-3H-imidazo-[4,5-b]pyridine-6-carboxylic acid, ethyl ester in Example 1 e with 7-chloro-3,5-dimethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid ethyl ester, 3,5-dimethyl-7-ethoxy-3H-imidazo-[4,5-b]pyridine-6-carboxylic acid, ethyl ester is obtained. Yield 78%, m.p. 85°-87° (ether).

reactant | 7-chloro-3-ethyl-5-methyl-3H-imidazo-[4,5-b]pyridine-6-carboxylic acid, ethyl ester | ClC1=C2C(=NC(=C1C(=O)OCC)C)N(C=N2)CC | C12H14ClN3O2
reactant | 7-chloro-3,5-dimethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1C)N(C=N2)C)Cl | C11H12ClN3O2
product | 3,5-dimethyl-7-ethoxy-3H-imidazo-[4,5-b]pyridine-6-carboxylic acid, ethyl ester | Yield 78% | CN1C=NC=2C1=NC(=C(C2OCC)C(=O)OCC)C | C13H17N3O3
